US08470847B2
1.1: 2-(Aminoethyl)-6-chloronicotinic acid
A solution of 18.0 g (84.4 mmol) of 2,6-dichloronicotinic acid in 180 ml of a solution of ethylamine at 70% in water is stirred at ambient temperature for 72 hours. The excess amine is then evaporated off under reduced pressure, and an aqueous solution of acetic acid at 10% is then added until the product precipitates. The beige solid is spin-filter-dried, rinsed with cold water and dried in an oven. 10.5 g of the expected product are obtained. Melting point: 158-160° C. Yield=62%.

reactant | 2,6-dichloronicotinic acid | 84.4 mmol, 18.0 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | 2-(Aminoethyl)-6-chloronicotinic acid | 10.5 g, Yield=62% | NCCC1=C(C(=O)O)C=CC(=N1)Cl | C8H9ClN2O2
